US04515790
A lithium diisopropylamine solution (prepared from 65 ml of a 2.2 molar solution of butyl lithium in hexane and 14.5 g of diisopropylamine in 150 ml of tetrahydrofuran) was added dropwise at a temperature of -60° C. within 15 minutes to a solution of 22 g of 1-methyl-2-nitroimidazole-5-methanol in 300 ml of tetrahydrofuran and 150 ml of dimethylformamide. The mixture was stirred at -60° C. for 30 minutes and treated with 28 g of p-toluenesulphonyl chloride in 150 ml of tetrahydrofuran. After removing the cooling, warming to room temperature and adding 300 ml of ice/water, the mixture was extracted three times with 300 ml of ethyl acetate each time. The combined extracts were washed with 150 ml of saturated sodium chloride solution and evaporated under reduced pressure. The residue was purified on 800 g of silica gel with ethyl acetate/dichloromethane (1:3, v/v). After a forerun of 1.5 l, the next 1.5 l were collected and evaporated. Recrystallization from 70 ml of toluene yielded 12 g (50%) of 5-(chloromethyl)-1-methyl-2-nitroimidazole, m.p. 100°-101° C.

reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 14.5 g | C(C)(C)NC(C)C | C6H15N
reactant | 1-methyl-2-nitroimidazole-5-methanol | 22 g | CN1C(=NC=C1CO)[N+](=O)[O-] | C5H7N3O3
reactant | p-toluenesulphonyl chloride | 28 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-(chloromethyl)-1-methyl-2-nitroimidazole | 12 g, 50% | ClCC1=CN=C(N1C)[N+](=O)[O-] | C5H6ClN3O2
